US04154740
preparation of 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isocyanate
A six gram sample of 4,5,6,7-tetrahydrobenzo[b]thiophen-7-amine is stirred in 20 ml. of toluene at 100° C. and phosgene is slowly introduced into the mixture through a gas tube. The flow of phosgene is terminated after most of the solid amine hydrochloride disappears. The mixture is then filtered and the filtrate is evaporated to dryness to afford the title compound.

reactant | 4,5,6,7-tetrahydrobenzo[b]thiophen-7-amine | S1C2=C(C=C1)CCCC2N | C8H11NS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isocyanate | S1C2=C(C=C1)CCCC2N=C=O | C9H9NOS
